US04638000
In 5 ml of acetic acid is dissolved 1.4 g of tert-butyl 3(R)-benzyloxycarbonylamino-4-oxo-7-trifluoromethyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, and 10 ml of 30% hydrogen bromide-acetic acid solution is added to the solution, followed by allowing the mixture to stand at room temperature for 4 hours. Petroleum ether (100 ml) is added to the reaction solution, and the mixture is thoroughly shaken, followed by decanting the supernatant. After petroleum ether is again added to repeat the same procedure, the residue is dissolved in a mixture of ethyl acetate and benzene, and the mixture is concentrated to dryness under reduced pressure. Petroleum ether is added to the residue to give 0.75 g of 3(R)-amino-4-oxo-7-trifluoromethyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid hydrobromide as crystals.

reactant | tert-butyl 3(R)-benzyloxycarbonylamino-4-oxo-7-trifluoromethyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 1.4 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=C(C=C2)C(F)(F)F | C24H25F3N2O5S
reactant | hydrogen bromide acetic acid | 10 ml | Br.C(C)(=O)O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3(R)-amino-4-oxo-7-trifluoromethyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid hydrobromide | 0.75 g | Br.N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=C(C=C2)C(F)(F)F | InChI=1S/C12H11F3N2O3S.BrH/c13-12(14,15)6-1-2-9-8(3-6)17(4-10(18)19)11(20)7(16)5-21-9;/h1-3,7H,4-5,16H2,(H,18,19);1H/t7-;/m0./s1
